US08669234B2
[1-(2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoro-ethoxy)-propyl]-carbamic acid methyl ester:
This compound was made in 27% yield by the same procedure as (4,4,4-Trifluoro-1-{2-[5-(4′-{2-[1-(5,5,5-trifluoro-2-methoxycarbonylamino-pentanoyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-butyl)-carbamic acid methyl ester, using [1-(2-{5-[4′-(2-Pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoroethoxy)-propyl]-carbamic acid methyl ester as the starting material. LCMS-ESI+: calculated for C42H48F6N8O8: 906.87; observed [M-1-1]+: 907.45. 1H-NMR: 400 MHz, (CD3OD) δ: 7.73-7.65 (m, 4H), 7.62-7.59 (m, 4H), 7.38-7.35 (m, 2H), 5.14-5.10 (m, 2H), 4.55-4.51 (m, 2H), 3.86-3.77 (m, 8H), 3.63-3.43 (m, 10H), 2.34-2.24 (m, 2H), 2.22-1.87 (m, 8H), 1.86-1.68 (m, 2H) ppm.

reactant | (4,4,4-Trifluoro-1-{2-[5-(4′-{2-[1-(5,5,5-trifluoro-2-methoxycarbonylamino-pentanoyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-butyl)-carbamic acid methyl ester | COC(NC(CCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(CCC(F)(F)F)NC(=O)OC)=O)=O | C40H44F6N8O6
reactant | [1-(2-{5-[4′-(2-Pyrrolidin-2-yl-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoroethoxy)-propyl]-carbamic acid methyl ester | COC(NC(CCOCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1NCCC1)=O | C34H38F3N7O4
product | [1-(2-{5-[4′-(2-{1-[2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyryl]-pyrrolidin-2-yl}-3H-imidazol-4-yl)-biphenyl-4-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-3-(2,2,2-trifluoro-ethoxy)-propyl]-carbamic acid methyl ester | 27% yield | COC(NC(CCOCC(F)(F)F)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(CCOCC(F)(F)F)NC(=O)OC)=O)=O | C42H48F6N8O8
